US03993679
a. 3,5-diamino-p-toluic acid
3,5-dinitro-p-toluic acid (10.0 gm.) is dissolved in methanol (300 ml.) and 5% palladium on charcoal (1.0 gm.) added. Reduction is carried out in a Parr apparatus for 1 hour at 40 psi of hydrogen. The product precipitates and the reaction mixture warmed until solution is complete. The catalyst is removed by filtration, washed with a few cc of methanol and the filtrate cooled to 0°. The product precipitates in fine needles and is collected by filtration, washed with a few ml. of methanol and dried (5.95 gm., 81% yield, m.p. 218°-220° dec.). The thin layer chromatogram (Silica gel, 5% methanol in chloroform) shows the material to be homogeneous.

reactant | 3,5-dinitro-p-toluic acid | 10.0 gm | [N+](=O)([O-])C=1C=C(C=C(C1C(=O)O)[N+](=O)[O-])C | C8H6N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium on charcoal | 1.0 gm | [Pd] | Pd
product | 3,5-diamino-p-toluic acid | 81% yield | NC=1C=C(C=C(C1C(=O)O)N)C | C8H10N2O2
